US07985753B2
8-Methyl-2,3,5,6-tetrahydro-1,4-dioxa-7-aza-phenanthrene
In close analogy to the procedure described above, N-[2-(2,3-dihydro-benzo[1,4]dioxin-5-yl)-ethyl]-acetamide is reacted with phosphorus pentoxide to provide the title compound.

reactant | N-[2-(2,3-dihydro-benzo[1,4]dioxin-5-yl)-ethyl]-acetamide | O1CCOC2=C1C=CC=C2CCNC(C)=O | C12H15NO3
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 8-Methyl-2,3,5,6-tetrahydro-1,4-dioxa-7-aza-phenanthrene | CC1=NCCC2=C3OCCOC3=CC=C12 | C12H13NO2
